2183-02-18 09:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo man s/p recent hip fracture who was admitted to the floor
   yesterday after being found down at rehab.  Transferred to the ICU
   overnight after needing several fluid boluses to maintain blood
   pressure and rising sodium from 155 to 160.
   24 Hour Events:
   Overnight, started on heparin gtt empirically. No other events. Home
   Imdur, Cardizem, atenolol held.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-2-18**] 05:00 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   RISS, Vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-18**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.4
C (101.1
   HR: 108 (95 - 108) bpm
   BP: 119/44(63) {99/42(58) - 129/80(87)} mmHg
   RR: 25 (18 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             1,230 mL
   PO:
             TF:
   IVF:
   1,230 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    670 mL
   Urine:
   670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, uncomfortable
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), rrr w/ occ extra beats, no
   m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: 2 regions of ecchymosis over R ischial prominence and
   R lower rib margin
   Skin:  Not assessed, L hip incision c/d/i, incisional erythema, staples
   intact
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, No(t)
   Sedated, Tone: Not assessed, minimally responsive
   Labs / Radiology
   7.9 g/dL
   387 K/uL
   124 mg/dL
   1.3 mg/dL
   22 mEq/L
   3.5 mEq/L
   48 mg/dL
   124 mEq/L
   160 mEq/L
   23.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2183-2-18**]  02:00 AM
                             [**2183-2-18**]  07:48 AM
   WBC
   19.8
   17.6
   Hct
   22.4
   23.9
   Plt
   405
   387
   Cr
   1.3
   TropT
   0.08
   Glucose
   124
   Other labs: PT / PTT / INR:17.4/71.8/1.6, CK / CKMB /
   Troponin-T:310/8/0.08, Mg++:2.2 mg/dL
   Imaging: CT head- neg
   CT spine- neg
   CXR- no infiltrate/effusion
   Microbiology: Pan cx- pending
   ECG: ECG- afib, v-paced
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)- possible sepsis
   w/ leukocytosis and hypotension, though no clear source.
   -pan-cx sent
   -broad ABX w/ vanco + Zosyn started; cont for 48-72h and narrow or dc
   if no cont'd clinical suspicion
 HYPOTENSION- transient and fluid responsive; DDx = dehydration vs
   occult infxn. PE a possibility in the post-op setting but low
   probability
   -cont to monitor
 ALTERED MENTAL STATUS (NOT DELIRIUM)- multifactorial, poss occult
   infxn, hypotension, hypernatremia
   -minimize mind-altering meds
   -tx other issues as above
 HYPERNATREMIA- on free water, total 5-6L free water deficit on
   admission
   -replete 50% of total deficit in first 24h, no more quickly than
   ~1meq/hr
   -follow Na closely through the day
 ATRIAL FIBRILLATION (AFIB)- reasonable rate control for now, po meds
   held for now given transient hypotension o/n
   -therap anticoag w/ heparin gtt for now. Long-term anticoag would be
   difficult given his fall risk. Will d/c today and tx w/ full dose ASA
   -consider repeat echo if persistent hypotension
 DIABETES MELLITUS (DM), TYPE I- RISS
 POSTOP HIP REPAIR
   -prophy anticoag
   -staple removal when appropriate per [**Doctor First Name 3**]
   Positive cardiac Enzymes
 evolving NSTEMI  - prognosis worsening
   will discuss with family
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-2-18**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2183-02-19 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Yesterday throughout day pt moaned verbalizing he was in pain but
   unable to state where, Morphine dose increased to 1-4mg q2hrs,
   Metoprolol d/c'd due to persistent hypotension
   - Pt's D5W rate increased to 200cc/hr, still hypernatremic. Na
   160->159->159->156->155
   - Pt noted to have persistent increasing Cardiac Enzymes CK
   310->994->1202, Troponins 0.08->0.12->Troponins; restarted on Heparin
   gtt, TTE ordered, ASA 325mg started
   - Hematuria noted late PM, Hct ordered stable
   - Overnight pt required frequent suctioning thick yellow secretions
   - BCx returned [**3-12**] gram + cocci in pairs and clusters.
   - Early this am pt was verbalizing phrases such as "I want some water"
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-2-18**] 04:31 PM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2183-2-18**] 08:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-19**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 94 (91 - 110) bpm
   BP: 93/32(49) {89/32(44) - 121/84(103)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  4,778 mL
                                                                  1,334 mL
   PO:
             TF:
   IVF:
                                                                  4,778 mL
                                                                  1,334 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    320 mL
   Urine:
                                                                  1,620 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,158 mL
                                                                  1,014 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100% on 2 L NC
   ABG: 7.47/34/114/25/1
   Physical Examination
   General Appearance: Elderly male lying in bed moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no MRG
   Lungs: CTAB
   Abd: + BS, soft, patient grimaces when palpated
   Extrem: 1+ edema
   Neurologic: Sleeping/not very arousable, but will flutter eyes to
   voice, withdraws from pain.  Does not follow commands.
   Labs / Radiology
   348 K/uL
   7.1 g/dL
   110 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.5 mEq/L
   31 mg/dL
   125 mEq/L
   155 mEq/L
   22.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2183-2-18**]  02:00 AM
                             [**2183-2-18**]  07:48 AM
                             [**2183-2-18**]  12:13 PM
                             [**2183-2-18**]  02:49 PM
                             [**2183-2-18**]  04:14 PM
                             [**2183-2-18**]  09:11 PM
                             [**2183-2-19**]  12:09 AM
                             [**2183-2-19**]  05:21 AM
   WBC
   19.8
   17.6
   15.7
   Hct
   22.4
   23.9
   25.2
   22.7
   Plt
   [**Telephone/Fax (3) 3435**]
   Cr
   1.3
   1.3
   1.3
   1.2
   TropT
   0.08
   0.12
   0.12
   TCO2
   25
   Glucose
   124
   223
   158
   110
   Other labs: PT / PTT / INR:17.2/75.0/1.6, CK / CKMB /
   Troponin-T:1202/9/0.12, Mg++:2.2 mg/dL
   [1][**2183-2-19**]
   SPUTUM
   GRAM STAIN-PENDING; RESPIRATORY CULTURE-PENDING
   INPATIENT
   [2][**2183-2-19**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-PENDING
   INPATIENT
   [3][**2183-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [4][**2183-2-18**]
   URINE
   URINE CULTURE-FINAL
   INPATIENT
   [5][**2183-2-18**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2183-2-18**]
   MRSA SCREEN
   MRSA SCREEN-PENDING
   INPATIENT
   [7][**2183-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY; Anaerobic Bottle Gram Stain-FINAL
   INPATIENT
   [8][**2183-2-17**]
   URINE
   URINE CULTURE-FINAL
   EMERGENCY [**Hospital1 **]
   [9][**2183-2-17**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   [**Age over 90 **] year old male with history of reported dementia, hear of hearing,
   CAD s/p CABG, Afib s/p PPM who recently was admitted to [**Hospital **] for a left hip fracture after fall, who was found
   down at his NH. He was initially admitted to the floor but was found to
   be intermittently hyportensive and hypernatremic.
   # Hypotension
 The patient
s SBP
s have been stable in the 90
s to
   120
s.  Has not required fluid boluses.  BCx grew out [**3-12**] gram positive
   cocci in pairs and clusters, so his hypotension may have been due to
   bacteremia.
   - continue Vanc/Zosyn for broad spectrum coverage and f/u culture
   data/speciation/sensitivities.  If his sputum culture returns negative
   will d/c zosyn.
   - will give intermittent IVF bolus with LR given hypernatremia to
   support his BP prn
   - pt's family ok with CVL/pressors if needed
   # Elevated CK
 The patient had a CK peak yesterday of 1200, however
   the MB fraction is low.  His trops peaked at 0.14.  Given the patient
   recent fall, his elevated CK may be due to muscle break down and not
   cardiac ischemia.
   - Was started back on the heparin gtt overnight, however as this is
   unlikely cardiac will stop the heparin gtt today.
   - Will transfuse 1 unit of PRBC as his Hct is 22.7 for a goal of >25 in
   the setting of elevated CK.
   - f/u TTE today
   # Hypernatremia - Secondary to free water deficit, had been getting 200
   cc/h of D5W overnight.  Now Na is down to 151 ( 8 point drop in 1 day).
   - Will decrease IVF to 100cc D5W/hr
   - Recheck pm lytes.
   # ARF
 Resolved - Cr of 2.5 on admission, now down to 1.2, likely near
   his baseline.  Most likely [**3-10**] to hypovolemia. He has been maintaining
   good urine output.
   # Leukocytosis
 WBC has been trending down, currently at 15.7, on
   vanc/zosyn. Wound with mild erythema, CXR without obvious PNA, U/A
   negative. LFTs unremarkable, no diarrhea.  BCx [**3-12**] grew out gram
   positive cocci in pairs and clusters.
   - follow up blood cultures and urine culture; f/u speciation and
   sensitivities of the positive BCx
   - F/u stool for C. Diff
   - Continue vanc/zosyn for now.
   # s/p recent left hip fracture - Incision appears c/d/i so doubt source
   of infection.
   - pain control as needed
   # CAD - will hold BP meds given hypotension. Will continue ASA and
   statin.
   # T2DM - will cover with ISS.
   # Code - DNR/DNI, confirmed on admission
   # Communication: Daughter [**Name (NI) **] [**Name2 (NI) 3404**] in [**State **]: [**Telephone/Fax (1) 3405**]
   cell: [**Telephone/Fax (1) 3406**], son-in law: [**Telephone/Fax (1) 3407**] (home), [**Telephone/Fax (1) 3408**]
   (cell)
   ICU Care
   Nutrition: NPO for now, will discuss with his HCP goals of care and
   whether she would want him to have a NGT (and likely eventually a PEG
   tube placed).
   Glycemic Control:  SSI
   Lines:  Will have a PICC placed today.
   20 Gauge - [**2183-2-18**] 08:51 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: no PPI indicated.
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU for now.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);

2183-02-19 11:15:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Febrile yest am and pan-cultured. Moaning throughout the day- given
   incr doses MSO4. Persistent hypernatremia. Up-trending CK and trop
   (1200 and 0.12 respectively). Heparin gtt resumed and echo ordered.
   Hematuria noted in the evening. Thick yellow secretions suctioned.
   Asking for water today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-2-18**] 04:31 PM
   Piperacillin - [**2183-2-19**] 10:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2183-2-18**] 08:44 PM
   Other medications:
   Vanco q48, [**Last Name (LF) 750**], [**First Name3 (LF) 68**], Heparin gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-19**] 11:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 103 (86 - 110) bpm
   BP: 86/58(65) {86/32(44) - 121/84(103)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  4,778 mL
                                                                  2,468 mL
   PO:
             TF:
   IVF:
                                                                  4,778 mL
                                                                  2,468 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    560 mL
   Urine:
                                                                  1,620 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,158 mL
                                                                  1,908 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.47/34/114/24/1
   Physical Examination
   General Appearance: No acute distress, moaning
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, grimace on palpation diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   348 K/uL
   70 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.4 mEq/L
   24 mg/dL
   120 mEq/L
   151 mEq/L
   22.7 %
   15.7 K/uL
        [image002.jpg]
                             [**2183-2-18**]  02:00 AM
                             [**2183-2-18**]  07:48 AM
                             [**2183-2-18**]  12:13 PM
                             [**2183-2-18**]  02:49 PM
                             [**2183-2-18**]  04:14 PM
                             [**2183-2-18**]  09:11 PM
                             [**2183-2-19**]  12:09 AM
                             [**2183-2-19**]  05:21 AM
   WBC
   19.8
   17.6
   15.7
   Hct
   22.4
   23.9
   25.2
   22.7
   Plt
   [**Telephone/Fax (3) 3435**]
   Cr
   1.3
   1.3
   1.3
   1.2
   1.2
   TropT
   0.08
   0.12
   0.12
   0.14
   TCO2
   25
   Glucose
   124
   223
   158
   110
   70
   Other labs: PT / PTT / INR:17.2/75.0/1.6, CK / CKMB /
   Troponin-T:867/8/0.14, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR- L effusion
   Echo-pending
   Microbiology: Blood Cx- ([**2-18**]) pending
   Blood Cx- 1 set (2 bottles)  w/ GPCs in [**Location (un) 3438**] and clusters ([**2-17**])
   Urine Cx- pending
   Sputum- pending
   C.diff- pending
   ECG: Telemetry- no events
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)- possible sepsis
   w/ leukocytosis and hypotension, though no clear source.
   -broad ABX w/ vanco + Zosyn started 48h ago, will narrow tomorrow based
   on cx data
   -pan-cx sent
 HYPOTENSION- transient and fluid responsive; DDx = dehydration vs
   occult infxn. PE a possibility in the post-op setting but low
   probability
   -cont to monitor; will monitor UOP for signs of adequate perfusion
 ALTERED MENTAL STATUS (NOT DELIRIUM)- multifactorial, poss occult
   infxn, hypotension, hypernatremia
   -minimize mind-altering meds
   -tx other issues as above
 HYPERNATREMIA- on free water, total 5-6L free water deficit on
   admission
   -cont to replete to goal rate of correction ~1meq/hr
   -follow Na closely through the day
 ATRIAL FIBRILLATION (AFIB)- reasonable rate control for now, po meds
   held for now given transient hypotension o/n
   -full dose [**Month/Year (2) 68**], BB if will take po
   -f/u echo
 DIABETES MELLITUS (DM), TYPE I- [**Month/Year (2) 750**]
 POSTOP HIP REPAIR
   -prophy anticoag
   -staple removal when appropriate per [**Doctor First Name 3**]
   PROBABLE DEMAND ISCHEMIA-
   -mild trop leak
   -f/u echo
   -transfuse to Hct 25 at least
   -cont to monitor
   MALNUTRITION- will need enteral feeds
   -speak w/ family about NGT placement
   -d/w family also about long-term nutrition requirement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-2-18**] 12:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Spoke with family who are not in favor of
   escalating care. Will focus on comfort measures with current level of
   intervention and not  place Central Line or utilize pressors
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2183-02-20 06:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Doctor Last Name **] spoke with his daughter/HCP who will be arriving in [**Name (NI) 168**] by the
   weekend.  She asked to hold off on NGT or PEG until she comes to see
   him.
   - He had a PICC line placed.
   - Was transfused 1 unit of PRBC and his Hct 22.7 --> 24.2.
   - [**Name (NI) **] showed mild symmetric LVH with normal cavity size. EF= 45-50 %
   with infero-lateral hypokinesis.
   - BCx grew out MRSA
 continued on vancomycin and zosyn
   - His pm NA decreased to 142 (from 151) and his IVF were changed to 75
   cc/h of 1/2NSD5W.
   - He continued all day and most of the night to call for help, but
   couldn't verbalize why he was calling for help when asked or answer if
   he was in pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-2-18**] 04:31 PM
   Vancomycin - [**2183-2-19**] 03:52 PM
   Piperacillin - [**2183-2-19**] 03:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-2-19**] 03:53 PM
   Morphine Sulfate - [**2183-2-20**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-20**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.8
C (96.4
   HR: 89 (77 - 107) bpm
   BP: 125/70(82) {86/40(35) - 130/70(82)} mmHg
   RR: 19 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  5,195 mL
                                                                    454 mL
   PO:
             TF:
   IVF:
                                                                  4,845 mL
                                                                    454 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,320 mL
                                                                    420 mL
   Urine:
                                                                  1,320 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,875 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Elderly male lying in bed moaning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, no MRG
   Lungs: scattered wheeze, otherwise clear
   Abd: + BS, soft, patient grimaces when palpated but unable to localize
   Extrem: 1+ edema
   Neurologic: Sleeping/not very arousable, but will flutter eyes to
   voice, withdraws from pain.  Does not follow commands.
   Labs / Radiology
   330 K/uL
   7.8 g/dL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   113 mEq/L
   144 mEq/L
   23.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2183-2-18**]  07:48 AM
                             [**2183-2-18**]  12:13 PM
                             [**2183-2-18**]  02:49 PM
                             [**2183-2-18**]  04:14 PM
                             [**2183-2-18**]  09:11 PM
                             [**2183-2-19**]  12:09 AM
                             [**2183-2-19**]  05:21 AM
                             [**2183-2-19**]  08:02 PM
                             [**2183-2-19**]  08:08 PM
                             [**2183-2-20**]  04:16 AM
   WBC
   17.6
   15.7
   14.8
   12.0
   Hct
   23.9
   25.2
   22.7
   24.2
   23.7
   Plt
   387
   348
   326
   330
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   0.9
   TropT
   0.12
   0.12
   0.14
   TCO2
   25
   Glucose
   223
   158
   110
   70
   169
   105
   Other labs: PT / PTT / INR:15.7/29.5/1.4, CK / CKMB /
   Troponin-T:867/8/0.14, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old male with history of reported dementia, hear of hearing,
   CAD s/p CABG, Afib s/p PPM who recently was admitted to [**Hospital **] for a left hip fracture after fall, who was found
   down at his NH. He was initially admitted to the floor but was found to
   be intermittently hyportensive and hypernatremic. Blood cx with MRSA on
   vanco and zosyn.
   # MRSA Sepsis:  Was intemittently hypotensive to 90
s, had elevated WBC
   count at 17, now trending down to 12.  Blood cultures grew out MRSA,
   speciated yesterday, unknown cause.  CXR without evidence of PNA.
   Urine cx negative.  Sputum cx contamintated, C. diff negative.  Only
   possible source if surgical incision  from hip fx repair, though wound
   C/D/I. Has been on vanco and zosyn since admission.   BP
s have been
   120-130 over last 24 hours,  Never required pressors.
   - continue vancomycin for MRSA bacteremia for total of 7 days
   - continue zosyn for now pending results of sputum cx.
   - per family, ok for CVL/pressors
   - PICC placed yesterday
 low threshold for d/c if persisently
   bacteremic or decompensates
   - survaillence blood cultures
   # Right Shoulder Pain:   Unclear cause, fell on R side at nursing home,
   concern for fracture.
   - will get trauma films of shoulder, elbow and wrist
   # Elevated CK
  Resolving. The patient had a CK peak of 1200,
   however the MB fraction was low.  His trops peaked at 0.14.  Given the
   patient
s recent fall, his elevated CK may be due to muscle break down
   and not cardiac ischemia.   Initially tx
ed with heparin gtt which has
   since been stopped as not felt ot be cardiac ischemia. Given anemia and
   concern for cardiac ischemia, was transfused 1 unit of PRBC as his Hct
   is 22.7--
24.2--
 23.7
   - [**First Name9 (NamePattern2) **] [**Last Name (un) 1830**] mild symmetric LVH with normal cavity size and lsightly
   depressed FE at 45-50% with infero-lateral hypokinesis
   # Anemia:  Hct 23.7 this morning without an appropriate bump to 1 unit
   pRBC yesterday.  Low concern for cardiac ischemia.  Given
   non-escalation of care, no transfusion for now.
   - pm hct , transfuse if <21
   # Hypernatremia: Resolved with fluids.  Na this morning 144, fluids
   changed to 75cc/hr D51/2NS. Was likely secondary to free water deficit,
   had been getting 200 cc/h of D5W overnight.
   - continue D5 1/2NS at 75cc/hr
   # ARF: Resolved - Cr of 2.5 on admission, now down to 0.9,.  Most
   likely [**3-10**] to hypovolemia. He has been maintaining good urine output.
   # S/p recent left hip fracture:  Incision appears c/d/i so doubt source
   of infection though possible.
    - pain control as needed
   # CAD - will hold BP meds given hypotension. Will continue ASA and
   statin.
   # T2DM - will cover with ISS.
   ICU Care
   Nutrition: NPO
   Glycemic Control: SSI
   Lines:
   20 Gauge - [**2183-2-18**] 12:15 AM
   PICC Line - [**2183-2-19**] 02:27 PM
   Prophylaxis:
   DVT: Heparin sq
   Stress ulcer: will start PPI
   VAP:
   Comments:
   Communication:  # Communication: Daughter [**First Name4 (NamePattern1) 996**] [**Last Name (NamePattern1) **] in [**State **]:
   [**Telephone/Fax (1) 3405**] cell: [**Telephone/Fax (1) 3406**], son-in law: [**Telephone/Fax (1) 3407**] (home),
   [**Telephone/Fax (1) 3408**] (cell)
   Code status: DNR/DNI, CVL and pressors ok per HCP
   Disposition: transfer to floor

2183-02-20 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   transfused 1u prbc yest. Echo yest. This am still moaning and c/o pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2183-2-18**] 04:31 PM
   Vancomycin - [**2183-2-19**] 03:52 PM
   Piperacillin - [**2183-2-19**] 03:52 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2183-2-20**] 08:57 AM
   Morphine Sulfate - [**2183-2-20**] 09:06 AM
   Other medications:
   ASA, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-2-20**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 104 (77 - 107) bpm
   BP: 126/60(76) {86/40(35) - 130/70(82)} mmHg
   RR: 20 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
             Total In:
                                                                  5,195 mL
                                                                    730 mL
   PO:
             TF:
   IVF:
                                                                  4,845 mL
                                                                    730 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,440 mL
                                                                    600 mL
   Urine:
                                                                  1,440 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,755 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : scattered)
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   330 K/uL
   105 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.7 mEq/L
   15 mg/dL
   113 mEq/L
   144 mEq/L
   23.7 %
   12.0 K/uL
        [image002.jpg]
                             [**2183-2-18**]  07:48 AM
                             [**2183-2-18**]  12:13 PM
                             [**2183-2-18**]  02:49 PM
                             [**2183-2-18**]  04:14 PM
                             [**2183-2-18**]  09:11 PM
                             [**2183-2-19**]  12:09 AM
                             [**2183-2-19**]  05:21 AM
                             [**2183-2-19**]  08:02 PM
                             [**2183-2-19**]  08:08 PM
                             [**2183-2-20**]  04:16 AM
   WBC
   17.6
   15.7
   14.8
   12.0
   Hct
   23.9
   25.2
   22.7
   24.2
   23.7
   Plt
   387
   348
   326
   330
   Cr
   1.3
   1.3
   1.2
   1.2
   1.1
   0.9
   TropT
   0.12
   0.12
   0.14
   TCO2
   25
   Glucose
   223
   158
   110
   70
   169
   105
   Other labs: PT / PTT / INR:15.7/29.5/1.4, CK / CKMB /
   Troponin-T:867/8/0.14, Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Fluid analysis / Other labs: Vanco level- pending
   Imaging: Echo- EF 45%, inferolat HK, LVH, no vegetations
   Microbiology: Blood Cx- MRSA ([**2-18**])
   Blood Cx- MRSA ([**2-17**])
   ECG: Tele- events
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)- possible sepsis
   w/ leukocytosis and hypotension, now w/ MRSA bacteremia of unclear
   source. concern about surigcal source of infxn
   -poss hip imaging if continued to remain bacteremic
   -cont vanco, check level and increase dosing given improved renal fxn,
   can now d/c Zosyn
   -low threshold to change PICC placed [**2-19**], need to ensure clearance of
   bacteremia
   -pan-cx sent and pending
 ALTERED MENTAL STATUS (NOT DELIRIUM)- multifactorial, poss occult
   infxn, hypotension, dementia
   -minimize mind-altering meds
   -tx other issues as above, frequent re-orienting
 HYPERNATREMIA- resolved
 ATRIAL FIBRILLATION (AFIB)- reasonable rate control for now, po meds
   held for now given transient hypotension o/n
   -full dose ASA, BB if will take po
   -f/u echo
 DIABETES MELLITUS (DM), TYPE I- RISS
 POSTOP HIP REPAIR
   -prophy anticoag
   -staple removal when appropriate per [**Doctor First Name 3**]
   -poss infectious w/u as above
   PROBABLE DEMAND ISCHEMIA-
   -mild trop leak
   -f/u echo
   -transfuse to Hct 25 at least
   -cont to monitor
   MALNUTRITION- will need enteral feeds
   -speak w/ family about NGT placement
   -d/w family also about long-term nutrition requirement
   LUE PAIN- poss fracture related to fall, will obtain plain films to
   eval for frx
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-2-18**] 12:15 AM
   PICC Line - [**2183-2-19**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes